US09193935B2
A solution of (4-(tert-Butyldimethylsilyloxy)-3-ethoxyphenyl)methyltriphenyl-phosphonium bromide (28.7 g, 41.6 mmol, 1.0 equiv.) in THF (90 mL), was cooled to 0° C. After adding n-BuLi (1.6 M in hexanes, 26 mL, 41.6 mmol, 1.0 equiv.) at 0° C., the red suspension was stirred at 0° C. for 15 min. 4-(4-(Tert-butyldimethylsilyloxy)phenyl)butan-2-one (12.9 g, 41.6 mmol, 1.0 equiv.) in THF (30 mL) was added, and the mixture was stirred at 0° C.→70° C. for 16 h. After addition of H2O at 25° C., the aqueous layer was extracted with hexanes (2×), the combined organic phases were washed with brine, dried (MgSO4), filtered and the filtrate was concentrated. The residue was purified by flash chromatography on SiO2 (cyclohexane/EtOAc 98:2) to give tert-butyl(4-(4-(4-((tert-butyldimethylsilyl)oxy)-3-ethoxyphenyl)-3-methylbut-3-en-1-yl)phenoxy)dimethylsilane as a colorless oil.

reactant | (4-(tert-Butyldimethylsilyloxy)-3-ethoxyphenyl)methyltriphenyl-phosphonium bromide | 41.6 mmol, 28.7 g, 1.0 equiv. | [Br-].[Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OCC
reactant | n-BuLi | 41.6 mmol, 1.6 M, 26 mL, 1.0 equiv. | [Li]CCCC
reactant | 4-(4-(Tert-butyldimethylsilyloxy)phenyl)butan-2-one | 41.6 mmol, 12.9 g, 1.0 equiv. | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CCC(C)=O | C16H26O2Si
reactant | H2O | O | H2O
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | tert-butyl(4-(4-(4-((tert-butyldimethylsilyl)oxy)-3-ethoxyphenyl)-3-methylbut-3-en-1-yl)phenoxy)dimethylsilane | C(C)(C)(C)[Si](C)(C)OC1=CC=C(C=C1)CCC(=CC1=CC(=C(C=C1)O[Si](C)(C)C(C)(C)C)OCC)C | C31H50O3Si2
